US08124629B2
A mixture of triphenylphosphine (1.10 g, 4.19 mmol), carbon tetrachloride (1.62 mL, 16.8 mmol) and tetrahydrofuran (5 mL) was stirred at room temperature for 10 minutes. A mixture of [4-(4-ethanesulfonyl-benzyl)-6-fluoro-3-methyl-naphthalen-2-yl]-methanol (780 mg, 2.09 mmol) in tetrahydrofuran (2.5 mL) was added, and the reaction mixture was stirred at 75° C. for 4 hours. The reaction mixture was cooled to room temperature, and then diluted with ethyl acetate. The resulting mixture was washed with water. The organic phase was dried over MgSO4, filtered, and concentrated. A solution of the crude product in dichloromethane was evaporated over silica gel, and the silica gel supported crude product was loaded onto an Analogix SuperFlash™ column. Flash chromatography (10%-30% ethyl acetate in hexanes) afforded 450 mg (55%) of 1-(4-ethanesulfonyl-benzyl)-3-chloromethyl-7-fluoro-2-methyl-naphthalene as a white solid. 1H NMR (300 MHz, DMSO-d6) δ ppm 8.04 (s, 1 H), 7.96-8.04 (m, 1 H), 7.76 (d, J=8.2 Hz, 2 H), 7.68-7.75 (m, 1 H), 7.41 (td, J=8.6, 2.1 Hz, 1 H), 7.30 (d, J=8.2 Hz, 2 H), 5.01 (s, 2 H), 4.63 (s, 2 H), 3.22 (q, J=7.2 Hz, 2 H), 2.47 (s, 3 H), 1.06 (t, J=7.2 Hz, 3 H). MS (ES+) cald. for C21H20CIFO2S [(M−Cl)+] 355, obsd. 355.

reactant | triphenylphosphine | 4.19 mmol, 1.10 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 16.8 mmol, 1.62 mL | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | [4-(4-ethanesulfonyl-benzyl)-6-fluoro-3-methyl-naphthalen-2-yl]-methanol | 2.09 mmol, 780 mg | C(C)S(=O)(=O)C1=CC=C(CC2=C(C(=CC3=CC=C(C=C23)F)CO)C)C=C1 | C21H21FO3S
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 1-(4-ethanesulfonyl-benzyl)-3-chloromethyl-7-fluoro-2-methyl-naphthalene | 450 mg, 55% | C(C)S(=O)(=O)C1=CC=C(CC2=C(C(=CC3=CC=C(C=C23)F)CCl)C)C=C1 | C21H20ClFO2S
